US05677309
To a stirred solution of N,N-diisopropylethylamine (10 ml, 57 mmol) in THF (150 ml), 2,4-dichloroquinazoline [prepared according to the procedure described by Curd, F. H. S. et al., J. Chem. Soc., (1947), 775] (5 g, 25 mmol) and phenylhydrazine (2.7 g, 25 mmol) was added. After stirring for 30 minutes, the reaction was poured into water and extracted with dichloromethane (3×100 ml). The combined organic layers were dried over Na2SO4 and evaporated under reduced pressure. The resulting solid was triturated with ethanol and filtered to afford 2-chloro-4-phenylhydrazinoquinazoline (3.2 g) as a yellow solid, m.p. 178° C. (dec.).

reactant | N,N-diisopropylethylamine | 57 mmol, 10 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | phenylhydrazine | 25 mmol, 2.7 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | water | O | H2O
reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-chloro-4-phenylhydrazinoquinazoline | 3.2 g | ClC1=NC2=CC=CC=C2C(=N1)NNC1=CC=CC=C1 | C14H11ClN4
